US07485644B2
To a stirred solution of the 5-pyrimidin-2-yl-1-({4-[5-(2,2,2-trifluoroethoxy)pyrimidin-2-yl]piperazin-1-yl}sulfonyl)pentan-2-ol (9.10 g, 18.6 mmol), triethylamine (13 mL, 93.0 mmol) in DCM (200 mL) at 0° C. was added methanesulfonyl chloride (2.16 mL, 27.9 mmol). The reaction was stirred at 0° C. for 15 minutes, warmed to room temperature and stirred for 16 hours. The reaction mixture was then washed with water (200 mL) and the aqueous back extracted with DCM (200 mL). The combined DCM extracts were washed with brine (250 mL), dried (MgSO4), filtered and concentrated in vacuo to give 2-(4-{[(1E)-5-pyrimidin-2-ylpent-1-en-1-yl]sulfonyl}piperazin-1-yl)-5-(2,2,2-trifluoroethoxy)pyrimidine as an orange solid (8.79 g, 18.6 mmol, 100%).

reactant | 5-pyrimidin-2-yl-1-({4-[5-(2,2,2-trifluoroethoxy)pyrimidin-2-yl]piperazin-1-yl}sulfonyl)pentan-2-ol | 18.6 mmol, 9.10 g | N1=C(N=CC=C1)CCCC(CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)OCC(F)(F)F)O | C19H25F3N6O4S
reactant | triethylamine | 93.0 mmol, 13 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 27.9 mmol, 2.16 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-{[(1E)-5-pyrimidin-2-ylpent-1-en-1-yl]sulfonyl}piperazin-1-yl)-5-(2,2,2-trifluoroethoxy)pyrimidine | 18.6 mmol, 8.79 g, 100% | N1=C(N=CC=C1)CCC/C=C/S(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)OCC(F)(F)F | C19H23F3N6O3S
